US07365065B2
Ethyl 2,3-dibromopropionate (24 g, 92 mmol) was added dropwise to a refluxing solution of o-aminophenol (10 g, 92 mmol) and potassium carbonate (15 g, 110 mmol) in acetone (100 ml). After 18 h the mixture was cooled and reduced. Ethyl acetate and water were added and the mixture separated. The organic phase was washed with brine, filtered and reduced. Chromatography (30% EtOAc/70% 60-80 petroleum ether) afforded ethyl benzomorpholine-2-carboxylate (4.5 g, 24%) as a red oil.

reactant | Ethyl 2,3-dibromopropionate | 92 mmol, 24 g | BrC(C(=O)OCC)CBr | C5H8Br2O2
reactant | o-aminophenol | 92 mmol, 10 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | potassium carbonate | 110 mmol, 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | ethyl benzomorpholine-2-carboxylate | 4.5 g, 24% | O1C(CNC2=C1C=CC=C2)C(=O)OCC | C11H13NO3
